US06503907B2
To 22.3 g (0.1 mol) 5-benzyloxyindole in 110 ml (1.0 mol) 1-bromo-4-fluorobenzene were added 28 g (0.5 mol) powdered potassium hydroxide and 6.4 g (0.1 mol) Cu as powder. The suspension was heated to reflux for 2 h. At RT, ether and water were added, the mixture was acidified with 2M HCl and extracted with ether. The combined organic phases were washed with water and dried over Na2SO4. Column chromatography on silica gel with a gradient hexane-hexane/EtOAc 19:1-9:1 yielded 19 g (60%) 5-Benzyloxy-1-(4-fluoro-phenyl)-1H-indole as colorless solid, MS: 318 (MH+).

reactant | 5-benzyloxyindole | 0.1 mol, 22.3 g | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | 1-bromo-4-fluorobenzene | 1.0 mol, 110 ml | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | potassium hydroxide | [OH-].[K+]
reactant | HCl | 2M | Cl | ClH
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 5-Benzyloxy-1-(4-fluoro-phenyl)-1H-indole | 19 g, 60% | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C21H16FNO
